US05719141
a) Indoline-3(R,S)-carboxylic acid (N-methyl)amide
3 ml of a 25% solution of trifluoroacetic acid in methylene chloride are added to a solution of 216 mg of 1-(tert-butoxycarbonyl)indoline-3(R,S)-carboxylic acid (N-methyl)amide in 1 ml of methylene chloride at 0° C., while stirring. After 90 min, the mixture is allowed to warm to room temperature and stirring is continued for 2 h. Concentration of the mixture and purification of the crude product over 50 g of silica gel (mobile phase K) gives the title compound: Rf (P)=0.52.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-(tert-butoxycarbonyl)indoline-3(R,S)-carboxylic acid (N-methyl)amide | 216 mg | CNC(=O)C1CN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C15H20N2O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | Indoline-3(R,S)-carboxylic acid (N-methyl)amide | CNC(=O)C1CNC2=CC=CC=C12 | C10H12N2O
